* C:\users\nihilistictinkerer\Documents\personal\meaningless-stuff\hardware-engineering\course-AMA-EE6100-Electric-Circuits-Theory-1\Lesson-08-Thevenin-Norton-Theorem\Lab_010_Norton_Theorem.asc
I1 0 N001 2
R1 N001 N003 4
V1 N003 0 12
R2 N002 N001 8
R3 N002 N004 5
R4 N004 0 8
R5 N002 N004 6
.tran 20
.backanno
.end
