* C:\users\nihilistictinkerer\Documents\personal\meaningless-stuff\hardware-engineering\course-AMA-EE6100-Electric-Circuits-Theory-1\Course-Project\Course_Project_Tonino_Kent_Louise.asc
R1 N002 0 4
V1 N002 0 24
R2 N001 0 4
V2 N001 0 12
.tran 20
;tran 20
.backanno
.end
