* C:\users\nihilistictinkerer\Documents\personal\meaningless-stuff\hardware-engineering\course-AMA-EE6100-Electric-Circuits-Theory-1\Lesson-05-Nodal-and-Mesh-Analysis\LAB_006_Tonino_Kent_Louise.asc
R1 N001 N002 5
R3 N002 N007 10
R2 N002 N003 6
R4 N003 0 4
V1 N001 0 15
V2 N007 0 10
R5 N005 N004 5
R6 N005 N008 10
R7 N006 N005 6
R8 0 N006 4
V3 N004 0 15
V4 N008 0 10
.tran 20
* I2
* I1
;tran 20
* I2
* I1
.backanno
.end
