* C:\users\nihilistictinkerer\Documents\personal\meaningless-stuff\hardware-engineering\course-AMA-EE6100-Electric-Circuits-Theory-1\Lesson-03-Ohms-Law\LAB_003_Tonino_Kent_Louise.asc
R1 N005 0 1000
V1 N005 0 0
R2 N006 0 1000
V2 N006 0 2
R3 N007 0 1000
V3 N007 0 4
R4 N001 0 1000
V4 N001 0 5
R5 N002 0 1000
V5 N002 0 10
R6 N003 0 1000
V6 N003 0 20
R7 N004 0 1000
V7 N004 0 30
R8 N012 0 6800
V8 N012 0 0
R9 N013 0 6800
V9 N013 0 2
R10 N014 0 6800
V10 N014 0 4
R11 N008 0 6800
V11 N008 0 5
R12 N009 0 6800
V12 N009 0 10
R13 N010 0 6800
V13 N010 0 20
R14 N011 0 6800
V14 N011 0 30
.tran 20
;tran 20
;tran 20
;tran 20
;tran 20
;tran 20
;tran 20
* Table 3.1: 1000 ohm
;tran 20
;tran 20
;tran 20
;tran 20
;tran 20
;tran 20
;tran 20
* Table 3.2: 6800 ohm
.backanno
.end
