* C:\users\nihilistictinkerer\Documents\personal\meaningless-stuff\hardware-engineering\course-AMA-EE6100-Electric-Circuits-Theory-1\Lesson-08-Thevenin-Norton-Theorem\LAB_009_Thevenins_Theorem.asc
V1 N001 0 32
R1 N002 N001 4
R2 N002 0 12
I1 0 N002 2
R3 N003 N002 1
R4 N003 0 16
.tran 20
.backanno
.end
