* Z:\home\nihilistictinkerer\Documents\personal\meaningless-stuff\hw-hardware-engineering\course-AMA-EE6100-Electric-Circuits-Theory-1\Lesson-01-Basic-Concepts\LAB_001_Tonino_Kent_Louise.asc
R1 N001 0 5
V1 N001 0 20
V2 N002 0 20
R2 N002 P001 5
R3 P001 0 5
.tran 20
.backanno
.end
